US07795315B2
(2-Acryloylamino-phenyl)-carbamic acid tert-butyl ester
To a solution of acrylic acid (2.50 g, 34.7 mmol) in dichloromethane (80 mL) at 0 degrees Celcius was added N-methyl-morpholine (4.73 g, 46.8 mmol), followed by isobutyl chloroformate (6.37 g, 46.8 mmol). After 30 minutes, a solution of (2-amino-phenyl)-carbamic acid tertbutyl ester (5.80 g, 27.8 mmol) in dichloromethane (50 mL) was added dropwise to the refluxing reaction mixture over 30 min. After the reaction was completed (2 hours later), the reaction mixture was allowed to cool down to room temperature, poured into ice water, and extracted with dichloromethane (30 mL×3). The organic layer was washed with water, dilute sodium bicarbonate solution, 0.1M HCl, water, and brine in turn. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude solid was recrystallized from ethyl acetate/petroleum ether=1/4 (v/v) to obtain the desired product (2.5 g, 34%). MS: calc'd 263 (MH+), exp 263 (MH+).

reactant | acrylic acid | 34.7 mmol, 2.50 g | C(C=C)(=O)O | C3H4O2
reactant | N-methyl-morpholine | 46.8 mmol, 4.73 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 46.8 mmol, 6.37 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (2-amino-phenyl)-carbamic acid tertbutyl ester | 27.8 mmol, 5.80 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2-Acryloylamino-phenyl)-carbamic acid tert-butyl ester | 2.5 g, 34% | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(C=C)=O)=O | C14H18N2O3
